US06034275
435 mg of [5-(4-bromomethyl-phenyl)-thiophen-2-yl]-4-bromophenyl-methanone are dissolved in 25 ml of acetone, 300 mg of potassium carbonate and 0.15 ml of N-allyl-methyl-amine are added and the mixture is held at reflux under argon for 4 hrs., treated with ice-water, extracted with ethyl acetate, dried and chromatographed on silica gel (ethyl acetate/hexane). 219 mg of 5-(4-[(allyl-methylamino)-methyl]-phenyl)-thiophen-2-yl)-(4-bromphenyl)-methanone, m.p. 131-133° C., are isolated.

reactant | [5-(4-bromomethyl-phenyl)-thiophen-2-yl]-4-bromophenyl-methanone | 435 mg | BrCC1=CC=C(C=C1)C1=CC=C(S1)C(=O)C1=CC=C(C=C1)Br | C18H12Br2OS
reactant | potassium carbonate | 300 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-allyl-methyl-amine | 0.15 ml | C(C=C)NC | C4H9N
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | (4-bromphenyl)-methanone | BrC1=CC=C(C=C1)C=O | C7H5BrO
